US04973426
Silver oxide (87.5 g, 0.38 mol) was added to a mixture of (R)-methyl lactate (52.1 g, 0.5 mol) with 1-iodopropane (100 g, 0.59 mol) over 3 hours, followed by allowing the mixture to stand at room temperature for 4 days, adding ether (200 ml) for dilution, filtering the mixture, distilling off ether, washing the residue with 2N-NaOH aqueous solution, drying over anhydrous sodium sulfate, distilling it under reduced pressure to obtain (R)-methyl 2-propoxypropionate (46.1 g, b.p. 33°-34° C./5 mmHg). To this (R)-methyl 2-propoxypropionate (28.2 g) were added water (60 ml) and NaOH (10 g), followed by agitating the mixture at room temperature for 3 hours, pouring the mixture in 6N-hydrochloric acid (80 ml), extracting the resulting organic layer with ether, washing the resulting organic layer with water and distilling off ether to obtain 2-propoxypropionic acid (18.0 g).

reactant | (R)-methyl lactate | 0.5 mol, 52.1 g | C([C@H](O)C)(=O)OC | C4H8O3
reactant | 1-iodopropane | 0.59 mol, 100 g | ICCC | C3H7I
catalyst | Silver oxide | 0.38 mol, 87.5 g | [Ag]=O
solvent | ether | 200 ml | CCOCC | C4H10O
product | (R)-methyl 2-propoxypropionate | 46.1 g | C(CC)O[C@@H](C(=O)OC)C | C7H14O3
